US04539410
A solution of 3-methyl-2-(1-imidazolyl)indole (1.50 g) in dimethylformamide (10 ml) is added dropwise to a suspension of 50% sodium hydride dispersion in mineral oil (0.77 g) in dimethylformamide (20 ml) stirred under nitrogen at 5°-10°. The suspension is stirred at 5°-10° for 1/2 hour. A solution of α-bromotoluic acid (1.63 g) in dimethylformamide (5 ml) is added dropwise to the suspension. The suspension is again stirred at 5°-10° for 1/2 hour and then overnight at room temperature. The suspension is diluted with water (100 ml) and acidified to pH 6 to 7 with 1N hydrochloric acid. The white precipitate which forms is collected by vacuum filtration, washed with water and dried to give 1-(p-carboxybenzyl)-2-(1-imidazolyl)-3-methylindole, m.p. 221°-5°. Recrystallization from acetonitrile gives crystals melting at 225°-7°.

reactant | 3-methyl-2-(1-imidazolyl)indole | 1.50 g | CC1=C(NC2=CC=CC=C12)N1C=NC=C1 | C12H11N3
reactant | sodium hydride | [H-].[Na+]
reactant | α-bromotoluic acid | 1.63 g | BrCC=1C(=CC=CC1)C(=O)O | C8H7BrO2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 1-(p-carboxybenzyl)-2-(1-imidazolyl)-3-methylindole | C(=O)(O)C1=CC=C(CN2C(=C(C3=CC=CC=C23)C)N2C=NC=C2)C=C1 | C20H17N3O2
